US04555506
A suspension of d,l-homophenylalanine (5 g., 27.9 mmole) in absolute ethanol (60 ml.) was cooled to 0° (ice bath) and saturated with hydrochloric acid gas. The mixture was allowed to warm to room temperature and stirred overnight. A stream of nitrogen was then passed through the solution to remove the bulk of the hydrochloric acid and the mixture was evaporated to dryness. The solid residue was triturated with ether, filtered and dried to give (±)-α-aminobenzenebutanoic acid, ethyl ester, monohydrochloride as a fluffy white solid; m.p. 129°-130°. Rf (acetic acid/methanol/dichloromethane; 1:1:8)=0.63.

reactant | d,l-homophenylalanine | 27.9 mmole, 5 g | NC(CCC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | (±)-α-aminobenzenebutanoic acid, ethyl ester, monohydrochloride | Cl.NC(C(=O)OCC)CCC1=CC=CC=C1 | InChI=1S/C12H17NO2.ClH/c1-2-15-12(14)11(13)9-8-10-6-4-3-5-7-10;/h3-7,11H,2,8-9,13H2,1H3;1H
